data/mechanisms/records/IMS8-EQ8.101c.json
{"mechanism_id": "IMS8-EQ8.101c", "species": [{"species_id": "beta_distonic_ion", "mapped_smiles": "[CH3:4][C:3]([1H:8])[CH2:2][C:1]([OH:5])=[O+:6][1H:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "branched_distonic_ion", "mapped_smiles": "[CH2:2][C:3]([1H:8])([CH3:4])[C:1]([OH:5])=[O+:6][1H:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "isobutyric_1_1_enediol_ion", "mapped_smiles": "[CH2:2]([1H:8])[C:3]([CH3:4])=[C:1]([OH:5])[O+:6][1H:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "isobutyric_acid_molecular_ion", "mapped_smiles": "[CH2:2]([1H:7])[C:3]([1H:8])([CH3:4])[C:1]([OH:5])=[O+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_beta_distonic", "species_ids": ["beta_distonic_ion"]}, {"state_id": "state_branched_distonic", "species_ids": ["branched_distonic_ion"]}, {"state_id": "state_isobutyric_enediol", "species_ids": ["isobutyric_1_1_enediol_ion"]}, {"state_id": "state_isobutyric_acid_ion", "species_ids": ["isobutyric_acid_molecular_ion"]}], "steps": [{"step_id": "step_rC_1_2_carboxyl_migration", "from_state": "state_beta_distonic", "to_state": "state_branched_distonic", "step_class": "skeletal_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_1_2_to_isobutyric_enediol", "from_state": "state_branched_distonic", "to_state": "state_isobutyric_enediol", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 8]}, "target": {"type": "bond", "atom_maps": [2, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 8]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_rH_1_4_to_isobutyric_acid_ion", "from_state": "state_branched_distonic", "to_state": "state_isobutyric_acid_ion", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [2, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "ev_step_rC_8_101c", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rC_1_2_carboxyl_migration", "support_type": "textbook_proposed", "locator": {"page": 210, "equation": "8.101", "figure": null, "panel": "vertical arrow labelled 'r C' on the left and '1, 2' on the right, below the beta-distonic ion", "section": "8.10 Hydrogen rearrangements, Examples (butanoic acid)"}, "confidence": 0.85, "curator_note": "Equation 8.101, the vertical arrow with 'r C' printed on its left and '1, 2' on its right, descending from the beta-distonic ion. Page 209 names the process: 'For low-energy, long-lived ions, a 1,2-migration of the protonated carboxyl group and further 1,2- and 1,4-H migrations effectively exchange carbon positions 2- and 4- and, to a lesser extent, C-2 through C-4 hydrogens, also scrambling the hydrogens in the CH2=C(OH)2 (+.) product (McAdoo et al. 1985)'. The protonated carboxyl - the unit McLafferty draws as 'HO ... C ... OH' with a curved line and a '+' spanning both C-O bonds - migrates from C-2 to the radical at C-3, leaving a new primary radical on C-2. The structure the book draws below the arrow is exactly that: the carboxyl on top, the central carbon carrying 'CH3' labelled 4 and '.CH2' labelled 2, and this record's atom maps reproduce that labelling (map 4 = the book's C-4 methyl, map 2 = the book's C-2, now the radical CH2). ARC COUNT (convention D): Book draws 0 arc(s); the arrow carries only 'r C' and '1, 2'. Moves <1,2,3> are all implicit - the standard homolytic bookkeeping of a 1,2-alkyl/acyl shift: the C-3 radical's odd electron makes half of the new C1-C3 bond, one electron of the old C1-C2 bond makes the other half, and the second electron of that bond stays behind on C-2 as the new radical. Nothing happens to the carboxyl's own bonds, so no C=O arrow is needed here. LOCALIZATION (conventions B and C): the migrating group is kept in the oxocarbenium form HO-C(=O(+)H)- throughout, the resonance partner of the drawn delocalised (HO)2C(+); page 209's own phrase 'the protonated carboxyl group' is what this localisation depicts."}, {"evidence_id": "ev_step_enediol_8_101c", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_1_2_to_isobutyric_enediol", "support_type": "textbook_proposed", "locator": {"page": 210, "equation": "8.101", "figure": null, "panel": "left-hand pair of equilibrium half-arrows below the branched ion, to 'HO-C(OH)=C(CH3)CH3' with '+.'", "section": "8.10 Hydrogen rearrangements, Examples (butanoic acid)"}, "confidence": 0.8, "curator_note": "Equation 8.101, the LEFT-hand equilibrium below the branched distonic ion, drawn as a pair of half-arrows (one pointing each way) to the structure 'HO-C(OH)=C(CH3)(CH3)' carrying '+.' at the upper right beside the top OH: the 2-methyl-1,1-enediol ion, i.e. the 1,1-enediol (enol) form of isobutyric acid, m/z 88. Bond changes: a hydrogen moves from C-3 to the primary radical on C-2, so C-2 becomes a methyl and the radical arrives on C-3, alpha to the protonated carboxyl, where it collapses into the drawn C1=C3 double bond and pushes the charge and the odd electron out onto the oxygen the book marks '+.'. ARC COUNT (convention D): Book draws 0 arc(s) on this equilibrium - it is a bare double arrow. All five moves are implicit: <1,2> make the new C2-H bond, <3> is the homolysis hook that puts the other C3-H electron into the forming C1=C3 pi bond, and <4,5> break the C1=O6 pi bond, one electron completing C1=C3 and one becoming the odd electron on oxygen. REVERSIBILITY: the book draws a two-way equilibrium, so reversible = true; the record stores only the forward direction as a graph edge because the schema forbids cycles in the mechanism state graph. The reverse direction is what IMS8-EQ8.101d uses to re-enter the branched ion with the radical on the OTHER methyl. RELATED TEXT (page 209): 'the radical site created can initiate a competitive skeletal rearrangement producing a stable 1,1-enediol ion (Equation 8.102, Audier and Sozzi 1984, Weiske and Schwarz 1986)'."}, {"evidence_id": "ev_step_keto_8_101c", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_1_4_to_isobutyric_acid_ion", "support_type": "textbook_proposed", "locator": {"page": 210, "equation": "8.101", "figure": null, "panel": "right-hand pair of equilibrium half-arrows below the branched ion, to 'HO-C(=O)-CH(CH3)CH3' with '+.' on the carbonyl O and the methyls labelled 4 and 2", "section": "8.10 Hydrogen rearrangements, Examples (butanoic acid)"}, "confidence": 0.8, "curator_note": "Equation 8.101, the RIGHT-hand equilibrium below the branched distonic ion, again a pair of half-arrows, to 'HO-C(=O)-CH(CH3)(CH3)' with '+.' printed on the carbonyl oxygen and the two methyls explicitly labelled 4 (left) and 2 (right): the ISOBUTYRIC (2-methylpropanoic) ACID MOLECULAR ION, m/z 88. Bond changes: the hydrogen that the very first (beta) transfer of this scheme deposited on the carboxyl oxygen simply goes back onto the primary radical at C-2, quenching it and restoring a genuine closed-shell carboxyl with the odd electron back on the carbonyl oxygen - an O-to-C 1,4-H migration (O6-C1-C3-C2). WHY THE BOOK DRAWS IT: in this ion the two methyls, the original C-2 and the original C-4, are constitutionally EQUIVALENT, and that equivalence is what completes the 2/4 carbon exchange page 209 describes ('further 1,2- and 1,4-H migrations effectively exchange carbon positions 2- and 4-'); the book underlines the point by printing the labels 4 and 2 on the two methyls of this one structure. ARC COUNT (convention D): Book draws 0 arc(s); the equilibrium is a bare double arrow. Moves <1,2,3> are implicit: the radical's odd electron and one electron of the breaking O-H bond make the new C2-H bond, and the second O-H electron stays on oxygen as the odd electron the book prints as '+.'. REVERSIBILITY: reversible = true (the book draws both arrows); only the forward edge is stored, to keep the state graph acyclic."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 88.0519, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_88_isobutyric_enediol", "species_id": "isobutyric_1_1_enediol_ion", "step_id": "step_rH_1_2_to_isobutyric_enediol", "observed_mz": 88.0519, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.3}, {"peak_id": "peak_88_isobutyric_acid_ion", "species_id": "isobutyric_acid_molecular_ion", "step_id": "step_rH_1_4_to_isobutyric_acid_ion", "observed_mz": 88.0519, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.3}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
